* 
* ******************************************************************************
* *                                                                            *
* *                   Copyright (C) 2004-2010, Nangate Inc.                    *
* *                           All rights reserved.                             *
* *                                                                            *
* * Nangate and the Nangate logo are trademarks of Nangate Inc.                *
* *                                                                            *
* * All trademarks, logos, software marks, and trade names (collectively the   *
* * "Marks") in this program are proprietary to Nangate or other respective    *
* * owners that have granted Nangate the right and license to use such Marks.  *
* * You are not permitted to use the Marks without the prior written consent   *
* * of Nangate or such third party that may own the Marks.                     *
* *                                                                            *
* * This file has been provided pursuant to a License Agreement containing     *
* * restrictions on its use. This file contains valuable trade secrets and     *
* * proprietary information of Nangate Inc., and is protected by U.S. and      *
* * international laws and/or treaties.                                        *
* *                                                                            *
* * The copyright notice(s) in this file does not indicate actual or intended  *
* * publication of this file.                                                  *
* *                                                                            *
* *         buildcell, v2010.08-HR32-SP3-2010-08-05 - build 1009061800         *
* *                                                                            *
* ******************************************************************************
* 
* 
* Running on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr).
* Local time is now Fri, 3 Dec 2010, 19:15:06.
* Main process id is 28006.
*
********************************************************************************
*                                                                              *
* Cellname:   OAI21_X4.                                                        *
*                                                                              *
* Technology: NCSU FreePDK 45nm.                                               *
* Format:     Cdl.                                                             *
*                                                                              *
* Written on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr)     *
* at 19:15:06 on Fri, 3 Dec 2010.                                              *
*                                                                              *
********************************************************************************
.SUBCKT OAI21_X4 VDD VSS ZN A B2 B1 
*.PININFO VDD:P VSS:G ZN:O A:I B2:I B1:I 
*.EQN ZN=!(A * (B1 + B2))
M_M12 N_ZN_M0_d N_A_M0_g N_VDD_M0_s VDD PMOS_VTL W=0.630000U L=0.050000U
M_M13 N_VDD_M1_d N_A_M1_g N_ZN_M0_d VDD PMOS_VTL W=0.630000U L=0.050000U
M_M14 N_ZN_M2_d N_A_M2_g N_VDD_M1_d VDD PMOS_VTL W=0.630000U L=0.050000U
M_M15 N_VDD_M3_d N_A_M3_g N_ZN_M2_d VDD PMOS_VTL W=0.630000U L=0.050000U
M_M16 net_1__m0_0 N_B2_M4_g N_VDD_M3_d VDD PMOS_VTL W=0.630000U L=0.050000U
M_M17 N_ZN_M5_d N_B1_M5_g net_1__m0_0 VDD PMOS_VTL W=0.630000U L=0.050000U
M_M18 net_1__m1 N_B1_M6_g N_ZN_M5_d VDD PMOS_VTL W=0.630000U L=0.050000U
M_M19 N_VDD_M7_d N_B2_M7_g net_1__m1 VDD PMOS_VTL W=0.630000U L=0.050000U
M_M20 net_1__m2 N_B2_M8_g N_VDD_M7_d VDD PMOS_VTL W=0.630000U L=0.050000U
M_M21 N_ZN_M9_d N_B1_M9_g net_1__m2 VDD PMOS_VTL W=0.630000U L=0.050000U
M_M22 net_1__m3 N_B1_M10_g N_ZN_M9_d VDD PMOS_VTL W=0.630000U L=0.050000U
M_M23 N_VDD_M11_d N_B2_M11_g net_1__m3 VDD PMOS_VTL W=0.630000U L=0.050000U
M_M0 N_VSS_M12_d N_A_M12_g N_3_M12_s VSS NMOS_VTL W=0.415000U L=0.050000U
M_M1 N_3_M13_d N_A_M13_g N_VSS_M12_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M2 N_VSS_M14_d N_A_M14_g N_3_M13_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M3 N_3_M15_d N_A_M15_g N_VSS_M14_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M4 N_ZN_M16_d N_B2_M16_g N_3_M15_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M5 N_3_M17_d N_B1_M17_g N_ZN_M16_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M6 N_ZN_M18_d N_B1_M18_g N_3_M17_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M7 N_3_M19_d N_B2_M19_g N_ZN_M18_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M8 N_ZN_M20_d N_B2_M20_g N_3_M19_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M9 N_3_M21_d N_B1_M21_g N_ZN_M20_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M10 N_ZN_M22_d N_B1_M22_g N_3_M21_d VSS NMOS_VTL W=0.415000U L=0.050000U
M_M11 N_3_M23_d N_B2_M23_g N_ZN_M22_d VSS NMOS_VTL W=0.415000U L=0.050000U
C_x_PM_OAI21_X4%VDD_c0 x_PM_OAI21_X4%VDD_57 VSS 2.72804e-18
C_x_PM_OAI21_X4%VDD_c1 x_PM_OAI21_X4%VDD_56 VSS 2.72804e-18
C_x_PM_OAI21_X4%VDD_c2 x_PM_OAI21_X4%VDD_55 VSS 2.72804e-18
C_x_PM_OAI21_X4%VDD_c3 x_PM_OAI21_X4%VDD_45 VSS 2.73183e-16
C_x_PM_OAI21_X4%VDD_c4 N_VDD_M11_d VSS 2.67428e-17
C_x_PM_OAI21_X4%VDD_c5 x_PM_OAI21_X4%VDD_39 VSS 6.03817e-17
C_x_PM_OAI21_X4%VDD_c6 N_VDD_M7_d VSS 3.11709e-17
C_x_PM_OAI21_X4%VDD_c7 x_PM_OAI21_X4%VDD_33 VSS 5.97557e-17
C_x_PM_OAI21_X4%VDD_c8 N_VDD_M3_d VSS 3.52029e-17
C_x_PM_OAI21_X4%VDD_c9 x_PM_OAI21_X4%VDD_27 VSS 2.69289e-17
C_x_PM_OAI21_X4%VDD_c10 N_VDD_M1_d VSS 4.06e-17
C_x_PM_OAI21_X4%VDD_c11 x_PM_OAI21_X4%VDD_22 VSS 1.89724e-17
C_x_PM_OAI21_X4%VDD_c12 x_PM_OAI21_X4%VDD_21 VSS 2.6926e-17
C_x_PM_OAI21_X4%VDD_c13 N_VDD_M0_s VSS 2.4972e-17
C_x_PM_OAI21_X4%VDD_c14 x_PM_OAI21_X4%VDD_16 VSS 1.92462e-17
C_x_PM_OAI21_X4%VDD_c15 x_PM_OAI21_X4%VDD_15 VSS 2.334e-16
C_x_PM_OAI21_X4%VDD_c16 x_PM_OAI21_X4%VDD_12 VSS 6.93639e-16
R_x_PM_OAI21_X4%VDD_r17 x_PM_OAI21_X4%VDD_58 VDD 0.490833
R_x_PM_OAI21_X4%VDD_r18 VDD x_PM_OAI21_X4%VDD_54 0.392137
R_x_PM_OAI21_X4%VDD_r19 x_PM_OAI21_X4%VDD_45 VDD 0.144103
R_x_PM_OAI21_X4%VDD_r20 x_PM_OAI21_X4%VDD_45 VDD 3.84471
R_x_PM_OAI21_X4%VDD_r21 x_PM_OAI21_X4%VDD_58 N_VDD_M11_d 0.366429
R_x_PM_OAI21_X4%VDD_r22 x_PM_OAI21_X4%VDD_40 x_PM_OAI21_X4%VDD_57 0.0731438
R_x_PM_OAI21_X4%VDD_r23 x_PM_OAI21_X4%VDD_39 x_PM_OAI21_X4%VDD_58 0.0754918
R_x_PM_OAI21_X4%VDD_r24 x_PM_OAI21_X4%VDD_39 x_PM_OAI21_X4%VDD_40 1.54235
R_x_PM_OAI21_X4%VDD_r25 x_PM_OAI21_X4%VDD_35 x_PM_OAI21_X4%VDD_57 0.145286
R_x_PM_OAI21_X4%VDD_r26 x_PM_OAI21_X4%VDD_35 N_VDD_M7_d 0.366429
R_x_PM_OAI21_X4%VDD_r27 x_PM_OAI21_X4%VDD_34 x_PM_OAI21_X4%VDD_56 0.0731438
R_x_PM_OAI21_X4%VDD_r28 x_PM_OAI21_X4%VDD_33 x_PM_OAI21_X4%VDD_57 0.0731438
R_x_PM_OAI21_X4%VDD_r29 x_PM_OAI21_X4%VDD_33 x_PM_OAI21_X4%VDD_34 1.54235
R_x_PM_OAI21_X4%VDD_r30 x_PM_OAI21_X4%VDD_29 x_PM_OAI21_X4%VDD_56 0.145286
R_x_PM_OAI21_X4%VDD_r31 x_PM_OAI21_X4%VDD_29 N_VDD_M3_d 0.366429
R_x_PM_OAI21_X4%VDD_r32 x_PM_OAI21_X4%VDD_28 x_PM_OAI21_X4%VDD_55 0.0731438
R_x_PM_OAI21_X4%VDD_r33 x_PM_OAI21_X4%VDD_27 x_PM_OAI21_X4%VDD_56 0.0731438
R_x_PM_OAI21_X4%VDD_r34 x_PM_OAI21_X4%VDD_27 x_PM_OAI21_X4%VDD_28 0.692941
R_x_PM_OAI21_X4%VDD_r35 x_PM_OAI21_X4%VDD_23 x_PM_OAI21_X4%VDD_55 0.145286
R_x_PM_OAI21_X4%VDD_r36 x_PM_OAI21_X4%VDD_23 N_VDD_M1_d 0.366429
R_x_PM_OAI21_X4%VDD_r37 x_PM_OAI21_X4%VDD_22 x_PM_OAI21_X4%VDD_54 0.0752999
R_x_PM_OAI21_X4%VDD_r38 x_PM_OAI21_X4%VDD_21 x_PM_OAI21_X4%VDD_55 0.0731438
R_x_PM_OAI21_X4%VDD_r39 x_PM_OAI21_X4%VDD_21 x_PM_OAI21_X4%VDD_22 0.681765
R_x_PM_OAI21_X4%VDD_r40 x_PM_OAI21_X4%VDD_54 N_VDD_M0_s 0.366429
R_x_PM_OAI21_X4%VDD_r41 x_PM_OAI21_X4%VDD_16 VDD 0.140282
R_x_PM_OAI21_X4%VDD_r42 x_PM_OAI21_X4%VDD_15 VDD 0.143516
R_x_PM_OAI21_X4%VDD_r43 x_PM_OAI21_X4%VDD_15 x_PM_OAI21_X4%VDD_16 7.68941
R_x_PM_OAI21_X4%VDD_r44 x_PM_OAI21_X4%VDD_12 VDD 10.8524
C_x_PM_OAI21_X4%VSS_c0 VSS VSS 2.62301e-16
C_x_PM_OAI21_X4%VSS_c1 x_PM_OAI21_X4%VSS_37 VSS 2.70045e-18
C_x_PM_OAI21_X4%VSS_c2 x_PM_OAI21_X4%VSS_36 VSS 2.70045e-18
C_x_PM_OAI21_X4%VSS_c3 x_PM_OAI21_X4%VSS_35 VSS 1.0599e-17
C_x_PM_OAI21_X4%VSS_c4 x_PM_OAI21_X4%VSS_34 VSS 2.334e-16
C_x_PM_OAI21_X4%VSS_c5 x_PM_OAI21_X4%VSS_22 VSS 4.41929e-16
C_x_PM_OAI21_X4%VSS_c6 x_PM_OAI21_X4%VSS_21 VSS 4.86265e-17
C_x_PM_OAI21_X4%VSS_c7 x_PM_OAI21_X4%VSS_18 VSS 3.49821e-17
C_x_PM_OAI21_X4%VSS_c8 x_PM_OAI21_X4%VSS_17 VSS 4.34339e-17
C_x_PM_OAI21_X4%VSS_c9 x_PM_OAI21_X4%VSS_14 VSS 3.40268e-17
C_x_PM_OAI21_X4%VSS_c10 x_PM_OAI21_X4%VSS_11 VSS 6.93639e-16
C_x_PM_OAI21_X4%VSS_c11 x_PM_OAI21_X4%VSS_10 VSS 1.92462e-17
R_x_PM_OAI21_X4%VSS_r12 VSS x_PM_OAI21_X4%VSS_35 0.138595
R_x_PM_OAI21_X4%VSS_r13 VSS x_PM_OAI21_X4%VSS_34 0.138985
R_x_PM_OAI21_X4%VSS_r14 x_PM_OAI21_X4%VSS_23 x_PM_OAI21_X4%VSS_37 0.0731438
R_x_PM_OAI21_X4%VSS_r15 x_PM_OAI21_X4%VSS_23 VSS 1.25176
R_x_PM_OAI21_X4%VSS_r16 VSS x_PM_OAI21_X4%VSS_22 0.13879
R_x_PM_OAI21_X4%VSS_r17 x_PM_OAI21_X4%VSS_22 VSS 2.86118
R_x_PM_OAI21_X4%VSS_r18 x_PM_OAI21_X4%VSS_21 x_PM_OAI21_X4%VSS_37 0.145286
R_x_PM_OAI21_X4%VSS_r19 N_VSS_M14_d x_PM_OAI21_X4%VSS_21 0.543196
R_x_PM_OAI21_X4%VSS_r20 x_PM_OAI21_X4%VSS_19 x_PM_OAI21_X4%VSS_36 0.0731438
R_x_PM_OAI21_X4%VSS_r21 x_PM_OAI21_X4%VSS_18 x_PM_OAI21_X4%VSS_37 0.0731438
R_x_PM_OAI21_X4%VSS_r22 x_PM_OAI21_X4%VSS_18 x_PM_OAI21_X4%VSS_19 0.692941
R_x_PM_OAI21_X4%VSS_r23 x_PM_OAI21_X4%VSS_17 x_PM_OAI21_X4%VSS_36 0.145286
R_x_PM_OAI21_X4%VSS_r24 N_VSS_M12_d x_PM_OAI21_X4%VSS_17 0.543196
R_x_PM_OAI21_X4%VSS_r25 x_PM_OAI21_X4%VSS_14 x_PM_OAI21_X4%VSS_36 0.0731438
R_x_PM_OAI21_X4%VSS_r26 x_PM_OAI21_X4%VSS_14 x_PM_OAI21_X4%VSS_35 0.603529
R_x_PM_OAI21_X4%VSS_r27 x_PM_OAI21_X4%VSS_11 VSS 10.8524
R_x_PM_OAI21_X4%VSS_r28 x_PM_OAI21_X4%VSS_10 VSS 0.140282
R_x_PM_OAI21_X4%VSS_r29 x_PM_OAI21_X4%VSS_34 x_PM_OAI21_X4%VSS_10 7.68941
C_x_PM_OAI21_X4%3_c0 N_3_M13_d VSS 5.0197e-17
C_x_PM_OAI21_X4%3_c1 N_3_M12_s VSS 4.01066e-17
C_x_PM_OAI21_X4%3_c2 x_PM_OAI21_X4%3_18 VSS 3.39809e-17
C_x_PM_OAI21_X4%3_c3 x_PM_OAI21_X4%3_17 VSS 1.9318e-17
C_x_PM_OAI21_X4%3_c4 x_PM_OAI21_X4%3_14 VSS 4.14668e-17
C_x_PM_OAI21_X4%3_c5 net_0 VSS 3.15794e-17
C_x_PM_OAI21_X4%3_c6 N_3_M23_d VSS 5.44911e-16
R_x_PM_OAI21_X4%3_r7 N_3_M19_d N_3_M21_d 2.06286
R_x_PM_OAI21_X4%3_r8 N_3_M17_d N_3_M19_d 2.06286
R_x_PM_OAI21_X4%3_r9 N_3_M15_d N_3_M17_d 2.06286
R_x_PM_OAI21_X4%3_r10 x_PM_OAI21_X4%3_18 N_3_M15_d 0.0135714
R_x_PM_OAI21_X4%3_r11 x_PM_OAI21_X4%3_16 x_PM_OAI21_X4%3_18 0.212317
R_x_PM_OAI21_X4%3_r12 x_PM_OAI21_X4%3_16 x_PM_OAI21_X4%3_17 0.732857
R_x_PM_OAI21_X4%3_r13 x_PM_OAI21_X4%3_15 N_3_M13_d 0.160909
R_x_PM_OAI21_X4%3_r14 x_PM_OAI21_X4%3_14 x_PM_OAI21_X4%3_17 0.212317
R_x_PM_OAI21_X4%3_r15 x_PM_OAI21_X4%3_14 x_PM_OAI21_X4%3_15 1.46571
R_x_PM_OAI21_X4%3_r16 x_PM_OAI21_X4%3_11 N_3_M12_s 0.198162
R_x_PM_OAI21_X4%3_r17 net_0 N_3_M13_d 0.160909
R_x_PM_OAI21_X4%3_r18 net_0 x_PM_OAI21_X4%3_11 1.65571
R_x_PM_OAI21_X4%3_r19 N_3_M21_d N_3_M23_d 2.06286
C_x_PM_OAI21_X4%ZN_c0 x_PM_OAI21_X4%ZN_49 VSS 1.1622e-17
C_x_PM_OAI21_X4%ZN_c1 x_PM_OAI21_X4%ZN_48 VSS 1.1622e-17
C_x_PM_OAI21_X4%ZN_c2 x_PM_OAI21_X4%ZN_47 VSS 2.95945e-18
C_x_PM_OAI21_X4%ZN_c3 ZN VSS 6.02186e-17
C_x_PM_OAI21_X4%ZN_c4 x_PM_OAI21_X4%ZN_41 VSS 4.12033e-17
C_x_PM_OAI21_X4%ZN_c5 N_ZN_M9_d VSS 3.34691e-17
C_x_PM_OAI21_X4%ZN_c6 x_PM_OAI21_X4%ZN_35 VSS 1.30749e-16
C_x_PM_OAI21_X4%ZN_c7 N_ZN_M5_d VSS 2.99682e-17
C_x_PM_OAI21_X4%ZN_c8 x_PM_OAI21_X4%ZN_21 VSS 5.0859e-16
C_x_PM_OAI21_X4%ZN_c9 x_PM_OAI21_X4%ZN_19 VSS 4.57186e-17
C_x_PM_OAI21_X4%ZN_c10 N_ZN_M2_d VSS 3.99022e-17
C_x_PM_OAI21_X4%ZN_c11 x_PM_OAI21_X4%ZN_14 VSS 8.27593e-18
C_x_PM_OAI21_X4%ZN_c12 x_PM_OAI21_X4%ZN_13 VSS 2.81197e-17
C_x_PM_OAI21_X4%ZN_c13 N_ZN_M0_d VSS 4.40753e-17
R_x_PM_OAI21_X4%ZN_r14 x_PM_OAI21_X4%ZN_44 ZN 0.407143
R_x_PM_OAI21_X4%ZN_r15 x_PM_OAI21_X4%ZN_43 ZN 2.25286
R_x_PM_OAI21_X4%ZN_r16 x_PM_OAI21_X4%ZN_42 x_PM_OAI21_X4%ZN_49 0.160909
R_x_PM_OAI21_X4%ZN_r17 x_PM_OAI21_X4%ZN_41 x_PM_OAI21_X4%ZN_44 0.212317
R_x_PM_OAI21_X4%ZN_r18 x_PM_OAI21_X4%ZN_41 x_PM_OAI21_X4%ZN_42 1.81857
R_x_PM_OAI21_X4%ZN_r19 x_PM_OAI21_X4%ZN_37 x_PM_OAI21_X4%ZN_49 0.0418175
R_x_PM_OAI21_X4%ZN_r20 x_PM_OAI21_X4%ZN_37 N_ZN_M9_d 1.12643
R_x_PM_OAI21_X4%ZN_r21 x_PM_OAI21_X4%ZN_36 x_PM_OAI21_X4%ZN_48 0.160909
R_x_PM_OAI21_X4%ZN_r22 x_PM_OAI21_X4%ZN_35 x_PM_OAI21_X4%ZN_49 0.160909
R_x_PM_OAI21_X4%ZN_r23 x_PM_OAI21_X4%ZN_35 x_PM_OAI21_X4%ZN_36 3.74571
R_x_PM_OAI21_X4%ZN_r24 x_PM_OAI21_X4%ZN_31 x_PM_OAI21_X4%ZN_48 0.0418175
R_x_PM_OAI21_X4%ZN_r25 x_PM_OAI21_X4%ZN_31 N_ZN_M5_d 1.12643
R_x_PM_OAI21_X4%ZN_r26 N_ZN_M20_d N_ZN_M22_d 2.06286
R_x_PM_OAI21_X4%ZN_r27 N_ZN_M18_d N_ZN_M20_d 2.06286
R_x_PM_OAI21_X4%ZN_r28 N_ZN_M16_d N_ZN_M18_d 2.03571
R_x_PM_OAI21_X4%ZN_r29 x_PM_OAI21_X4%ZN_21 x_PM_OAI21_X4%ZN_43 0.212317
R_x_PM_OAI21_X4%ZN_r30 x_PM_OAI21_X4%ZN_21 N_ZN_M22_d 0.963571
R_x_PM_OAI21_X4%ZN_r31 x_PM_OAI21_X4%ZN_20 x_PM_OAI21_X4%ZN_47 0.160909
R_x_PM_OAI21_X4%ZN_r32 x_PM_OAI21_X4%ZN_19 x_PM_OAI21_X4%ZN_48 0.160909
R_x_PM_OAI21_X4%ZN_r33 x_PM_OAI21_X4%ZN_19 x_PM_OAI21_X4%ZN_20 2.71429
R_x_PM_OAI21_X4%ZN_r34 x_PM_OAI21_X4%ZN_15 x_PM_OAI21_X4%ZN_47 0.0418175
R_x_PM_OAI21_X4%ZN_r35 x_PM_OAI21_X4%ZN_15 N_ZN_M2_d 1.12643
R_x_PM_OAI21_X4%ZN_r36 x_PM_OAI21_X4%ZN_13 x_PM_OAI21_X4%ZN_47 0.160909
R_x_PM_OAI21_X4%ZN_r37 x_PM_OAI21_X4%ZN_13 x_PM_OAI21_X4%ZN_14 1.62857
R_x_PM_OAI21_X4%ZN_r38 x_PM_OAI21_X4%ZN_9 x_PM_OAI21_X4%ZN_14 0.212317
R_x_PM_OAI21_X4%ZN_r39 x_PM_OAI21_X4%ZN_9 N_ZN_M0_d 1.12643
C_x_PM_OAI21_X4%A_c0 x_PM_OAI21_X4%A_43 VSS 2.23142e-17
C_x_PM_OAI21_X4%A_c1 x_PM_OAI21_X4%A_42 VSS 4.40149e-18
C_x_PM_OAI21_X4%A_c2 x_PM_OAI21_X4%A_41 VSS 6.72026e-19
C_x_PM_OAI21_X4%A_c3 x_PM_OAI21_X4%A_40 VSS 5.21948e-18
C_x_PM_OAI21_X4%A_c4 x_PM_OAI21_X4%A_39 VSS 6.72026e-19
C_x_PM_OAI21_X4%A_c5 x_PM_OAI21_X4%A_37 VSS 3.30952e-18
C_x_PM_OAI21_X4%A_c6 N_A_M3_g VSS 5.62782e-17
C_x_PM_OAI21_X4%A_c7 N_A_M15_g VSS 4.60253e-17
C_x_PM_OAI21_X4%A_c8 x_PM_OAI21_X4%A_27 VSS 7.75788e-18
C_x_PM_OAI21_X4%A_c9 N_A_M2_g VSS 3.69874e-17
C_x_PM_OAI21_X4%A_c10 N_A_M14_g VSS 2.85755e-17
C_x_PM_OAI21_X4%A_c11 N_A_M1_g VSS 3.64956e-17
C_x_PM_OAI21_X4%A_c12 N_A_M13_g VSS 2.88983e-17
C_x_PM_OAI21_X4%A_c13 x_PM_OAI21_X4%A_9 VSS 7.75788e-18
C_x_PM_OAI21_X4%A_c14 N_A_M0_g VSS 5.30929e-17
C_x_PM_OAI21_X4%A_c15 N_A_M12_g VSS 4.50526e-17
R_x_PM_OAI21_X4%A_r16 x_PM_OAI21_X4%A_43 x_PM_OAI21_X4%A_45 25.0012
R_x_PM_OAI21_X4%A_r17 x_PM_OAI21_X4%A_43 A 0.167647
R_x_PM_OAI21_X4%A_r18 x_PM_OAI21_X4%A_40 x_PM_OAI21_X4%A_45 5.46
R_x_PM_OAI21_X4%A_r19 x_PM_OAI21_X4%A_40 x_PM_OAI21_X4%A_41 1.95
R_x_PM_OAI21_X4%A_r20 x_PM_OAI21_X4%A_38 x_PM_OAI21_X4%A_45 9.1
R_x_PM_OAI21_X4%A_r21 x_PM_OAI21_X4%A_38 x_PM_OAI21_X4%A_39 1.95
R_x_PM_OAI21_X4%A_r22 x_PM_OAI21_X4%A_33 x_PM_OAI21_X4%A_42 4.56151
R_x_PM_OAI21_X4%A_r23 x_PM_OAI21_X4%A_33 N_A_M3_g 56.94
R_x_PM_OAI21_X4%A_r24 x_PM_OAI21_X4%A_29 x_PM_OAI21_X4%A_42 4.56151
R_x_PM_OAI21_X4%A_r25 x_PM_OAI21_X4%A_29 N_A_M15_g 40.17
R_x_PM_OAI21_X4%A_r26 x_PM_OAI21_X4%A_28 x_PM_OAI21_X4%A_41 1.95
R_x_PM_OAI21_X4%A_r27 x_PM_OAI21_X4%A_27 x_PM_OAI21_X4%A_42 0.043368
R_x_PM_OAI21_X4%A_r28 x_PM_OAI21_X4%A_27 x_PM_OAI21_X4%A_28 14.56
R_x_PM_OAI21_X4%A_r29 x_PM_OAI21_X4%A_23 x_PM_OAI21_X4%A_41 1.95
R_x_PM_OAI21_X4%A_r30 x_PM_OAI21_X4%A_23 N_A_M2_g 56.94
R_x_PM_OAI21_X4%A_r31 x_PM_OAI21_X4%A_19 x_PM_OAI21_X4%A_41 1.95
R_x_PM_OAI21_X4%A_r32 x_PM_OAI21_X4%A_19 N_A_M14_g 40.17
R_x_PM_OAI21_X4%A_r33 x_PM_OAI21_X4%A_15 x_PM_OAI21_X4%A_39 1.95
R_x_PM_OAI21_X4%A_r34 x_PM_OAI21_X4%A_15 N_A_M1_g 56.94
R_x_PM_OAI21_X4%A_r35 x_PM_OAI21_X4%A_11 x_PM_OAI21_X4%A_39 1.95
R_x_PM_OAI21_X4%A_r36 x_PM_OAI21_X4%A_11 N_A_M13_g 40.17
R_x_PM_OAI21_X4%A_r37 x_PM_OAI21_X4%A_10 x_PM_OAI21_X4%A_37 0.043368
R_x_PM_OAI21_X4%A_r38 x_PM_OAI21_X4%A_9 x_PM_OAI21_X4%A_39 1.95
R_x_PM_OAI21_X4%A_r39 x_PM_OAI21_X4%A_9 x_PM_OAI21_X4%A_10 14.56
R_x_PM_OAI21_X4%A_r40 x_PM_OAI21_X4%A_5 x_PM_OAI21_X4%A_37 4.56151
R_x_PM_OAI21_X4%A_r41 x_PM_OAI21_X4%A_5 N_A_M0_g 56.94
R_x_PM_OAI21_X4%A_r42 x_PM_OAI21_X4%A_1 x_PM_OAI21_X4%A_37 4.56151
R_x_PM_OAI21_X4%A_r43 x_PM_OAI21_X4%A_1 N_A_M12_g 40.17
C_x_PM_OAI21_X4%B2_c0 x_PM_OAI21_X4%B2_51 VSS 6.10434e-17
C_x_PM_OAI21_X4%B2_c1 x_PM_OAI21_X4%B2_49 VSS 1.05628e-17
C_x_PM_OAI21_X4%B2_c2 x_PM_OAI21_X4%B2_47 VSS 4.908e-17
C_x_PM_OAI21_X4%B2_c3 x_PM_OAI21_X4%B2_44 VSS 1.94697e-16
C_x_PM_OAI21_X4%B2_c4 x_PM_OAI21_X4%B2_43 VSS 8.93432e-18
C_x_PM_OAI21_X4%B2_c5 x_PM_OAI21_X4%B2_42 VSS 1.53144e-16
C_x_PM_OAI21_X4%B2_c6 x_PM_OAI21_X4%B2_40 VSS 8.4888e-18
C_x_PM_OAI21_X4%B2_c7 x_PM_OAI21_X4%B2_38 VSS 1.22583e-17
C_x_PM_OAI21_X4%B2_c8 x_PM_OAI21_X4%B2_36 VSS 4.34848e-18
C_x_PM_OAI21_X4%B2_c9 x_PM_OAI21_X4%B2_35 VSS 6.8893e-18
C_x_PM_OAI21_X4%B2_c10 x_PM_OAI21_X4%B2_34 VSS 4.34848e-18
C_x_PM_OAI21_X4%B2_c11 N_B2_M11_g VSS 8.07856e-17
C_x_PM_OAI21_X4%B2_c12 N_B2_M23_g VSS 5.72207e-17
C_x_PM_OAI21_X4%B2_c13 N_B2_M8_g VSS 6.06468e-17
C_x_PM_OAI21_X4%B2_c14 N_B2_M20_g VSS 4.41523e-17
C_x_PM_OAI21_X4%B2_c15 N_B2_M7_g VSS 6.04306e-17
C_x_PM_OAI21_X4%B2_c16 N_B2_M19_g VSS 4.40377e-17
C_x_PM_OAI21_X4%B2_c17 N_B2_M4_g VSS 7.55499e-17
C_x_PM_OAI21_X4%B2_c18 N_B2_M16_g VSS 5.36381e-17
R_x_PM_OAI21_X4%B2_r19 x_PM_OAI21_X4%B2_55 x_PM_OAI21_X4%B2_57 25.0012
R_x_PM_OAI21_X4%B2_r20 B2 x_PM_OAI21_X4%B2_55 0.288519
R_x_PM_OAI21_X4%B2_r21 x_PM_OAI21_X4%B2_51 B2 0.0985185
R_x_PM_OAI21_X4%B2_r22 x_PM_OAI21_X4%B2_49 x_PM_OAI21_X4%B2_65 4.74714
R_x_PM_OAI21_X4%B2_r23 x_PM_OAI21_X4%B2_49 x_PM_OAI21_X4%B2_64 4.74714
R_x_PM_OAI21_X4%B2_r24 x_PM_OAI21_X4%B2_47 x_PM_OAI21_X4%B2_49 25.0012
R_x_PM_OAI21_X4%B2_r25 x_PM_OAI21_X4%B2_46 x_PM_OAI21_X4%B2_47 0.3116
R_x_PM_OAI21_X4%B2_r26 x_PM_OAI21_X4%B2_45 x_PM_OAI21_X4%B2_51 0.095
R_x_PM_OAI21_X4%B2_r27 x_PM_OAI21_X4%B2_44 x_PM_OAI21_X4%B2_46 0.235058
R_x_PM_OAI21_X4%B2_r28 x_PM_OAI21_X4%B2_44 x_PM_OAI21_X4%B2_45 2.66
R_x_PM_OAI21_X4%B2_r29 x_PM_OAI21_X4%B2_42 x_PM_OAI21_X4%B2_51 0.095
R_x_PM_OAI21_X4%B2_r30 x_PM_OAI21_X4%B2_42 x_PM_OAI21_X4%B2_43 2.95857
R_x_PM_OAI21_X4%B2_r31 x_PM_OAI21_X4%B2_40 x_PM_OAI21_X4%B2_62 4.7687
R_x_PM_OAI21_X4%B2_r32 x_PM_OAI21_X4%B2_40 x_PM_OAI21_X4%B2_61 4.7687
R_x_PM_OAI21_X4%B2_r33 x_PM_OAI21_X4%B2_38 x_PM_OAI21_X4%B2_40 25.0012
R_x_PM_OAI21_X4%B2_r34 x_PM_OAI21_X4%B2_37 x_PM_OAI21_X4%B2_43 0.212317
R_x_PM_OAI21_X4%B2_r35 x_PM_OAI21_X4%B2_37 x_PM_OAI21_X4%B2_38 0.556429
R_x_PM_OAI21_X4%B2_r36 x_PM_OAI21_X4%B2_35 x_PM_OAI21_X4%B2_57 7.54
R_x_PM_OAI21_X4%B2_r37 x_PM_OAI21_X4%B2_35 x_PM_OAI21_X4%B2_36 0.043368
R_x_PM_OAI21_X4%B2_r38 x_PM_OAI21_X4%B2_33 x_PM_OAI21_X4%B2_57 7.02
R_x_PM_OAI21_X4%B2_r39 x_PM_OAI21_X4%B2_33 x_PM_OAI21_X4%B2_34 0.043368
R_x_PM_OAI21_X4%B2_r40 x_PM_OAI21_X4%B2_65 N_B2_M11_g 56.94
R_x_PM_OAI21_X4%B2_r41 x_PM_OAI21_X4%B2_64 N_B2_M23_g 40.17
R_x_PM_OAI21_X4%B2_r42 x_PM_OAI21_X4%B2_21 x_PM_OAI21_X4%B2_36 4.56151
R_x_PM_OAI21_X4%B2_r43 x_PM_OAI21_X4%B2_21 N_B2_M8_g 56.94
R_x_PM_OAI21_X4%B2_r44 x_PM_OAI21_X4%B2_17 x_PM_OAI21_X4%B2_36 4.56151
R_x_PM_OAI21_X4%B2_r45 x_PM_OAI21_X4%B2_17 N_B2_M20_g 40.17
R_x_PM_OAI21_X4%B2_r46 x_PM_OAI21_X4%B2_13 x_PM_OAI21_X4%B2_34 4.56151
R_x_PM_OAI21_X4%B2_r47 x_PM_OAI21_X4%B2_13 N_B2_M7_g 56.94
R_x_PM_OAI21_X4%B2_r48 x_PM_OAI21_X4%B2_9 x_PM_OAI21_X4%B2_34 4.56151
R_x_PM_OAI21_X4%B2_r49 x_PM_OAI21_X4%B2_9 N_B2_M19_g 40.17
R_x_PM_OAI21_X4%B2_r50 x_PM_OAI21_X4%B2_62 N_B2_M4_g 56.94
R_x_PM_OAI21_X4%B2_r51 x_PM_OAI21_X4%B2_61 N_B2_M16_g 40.17
C_x_PM_OAI21_X4%B1_c0 x_PM_OAI21_X4%B1_51 VSS 6.01709e-17
C_x_PM_OAI21_X4%B1_c1 x_PM_OAI21_X4%B1_43 VSS 5.41788e-17
C_x_PM_OAI21_X4%B1_c2 x_PM_OAI21_X4%B1_41 VSS 1.18619e-16
C_x_PM_OAI21_X4%B1_c3 x_PM_OAI21_X4%B1_40 VSS 4.57263e-18
C_x_PM_OAI21_X4%B1_c4 x_PM_OAI21_X4%B1_39 VSS 6.82887e-18
C_x_PM_OAI21_X4%B1_c5 x_PM_OAI21_X4%B1_38 VSS 4.34592e-18
C_x_PM_OAI21_X4%B1_c6 x_PM_OAI21_X4%B1_36 VSS 4.34848e-18
C_x_PM_OAI21_X4%B1_c7 x_PM_OAI21_X4%B1_35 VSS 6.82887e-18
C_x_PM_OAI21_X4%B1_c8 x_PM_OAI21_X4%B1_34 VSS 4.29255e-18
C_x_PM_OAI21_X4%B1_c9 N_B1_M10_g VSS 5.70553e-17
C_x_PM_OAI21_X4%B1_c10 N_B1_M22_g VSS 4.96929e-17
C_x_PM_OAI21_X4%B1_c11 N_B1_M9_g VSS 5.47043e-17
C_x_PM_OAI21_X4%B1_c12 N_B1_M21_g VSS 4.96876e-17
C_x_PM_OAI21_X4%B1_c13 N_B1_M6_g VSS 5.48586e-17
C_x_PM_OAI21_X4%B1_c14 N_B1_M18_g VSS 4.98066e-17
C_x_PM_OAI21_X4%B1_c15 N_B1_M5_g VSS 5.60606e-17
C_x_PM_OAI21_X4%B1_c16 N_B1_M17_g VSS 5.01664e-17
R_x_PM_OAI21_X4%B1_r17 x_PM_OAI21_X4%B1_51 x_PM_OAI21_X4%B1_53 25.0012
R_x_PM_OAI21_X4%B1_r18 x_PM_OAI21_X4%B1_51 x_PM_OAI21_X4%B1_55 0.372963
R_x_PM_OAI21_X4%B1_r19 B1 x_PM_OAI21_X4%B1_49 0.267407
R_x_PM_OAI21_X4%B1_r20 x_PM_OAI21_X4%B1_43 x_PM_OAI21_X4%B1_45 25.0012
R_x_PM_OAI21_X4%B1_r21 x_PM_OAI21_X4%B1_43 B1 0.105556
R_x_PM_OAI21_X4%B1_r22 x_PM_OAI21_X4%B1_42 x_PM_OAI21_X4%B1_49 0.095
R_x_PM_OAI21_X4%B1_r23 x_PM_OAI21_X4%B1_41 x_PM_OAI21_X4%B1_55 0.095
R_x_PM_OAI21_X4%B1_r24 x_PM_OAI21_X4%B1_41 x_PM_OAI21_X4%B1_42 3.36571
R_x_PM_OAI21_X4%B1_r25 x_PM_OAI21_X4%B1_39 x_PM_OAI21_X4%B1_53 7.54
R_x_PM_OAI21_X4%B1_r26 x_PM_OAI21_X4%B1_39 x_PM_OAI21_X4%B1_40 0.043368
R_x_PM_OAI21_X4%B1_r27 x_PM_OAI21_X4%B1_37 x_PM_OAI21_X4%B1_53 7.02
R_x_PM_OAI21_X4%B1_r28 x_PM_OAI21_X4%B1_37 x_PM_OAI21_X4%B1_38 0.043368
R_x_PM_OAI21_X4%B1_r29 x_PM_OAI21_X4%B1_35 x_PM_OAI21_X4%B1_45 7.02
R_x_PM_OAI21_X4%B1_r30 x_PM_OAI21_X4%B1_35 x_PM_OAI21_X4%B1_36 0.043368
R_x_PM_OAI21_X4%B1_r31 x_PM_OAI21_X4%B1_33 x_PM_OAI21_X4%B1_45 7.54
R_x_PM_OAI21_X4%B1_r32 x_PM_OAI21_X4%B1_33 x_PM_OAI21_X4%B1_34 0.043368
R_x_PM_OAI21_X4%B1_r33 x_PM_OAI21_X4%B1_29 x_PM_OAI21_X4%B1_40 4.56151
R_x_PM_OAI21_X4%B1_r34 x_PM_OAI21_X4%B1_29 N_B1_M10_g 56.94
R_x_PM_OAI21_X4%B1_r35 x_PM_OAI21_X4%B1_25 x_PM_OAI21_X4%B1_40 4.56151
R_x_PM_OAI21_X4%B1_r36 x_PM_OAI21_X4%B1_25 N_B1_M22_g 40.17
R_x_PM_OAI21_X4%B1_r37 x_PM_OAI21_X4%B1_21 x_PM_OAI21_X4%B1_38 4.56151
R_x_PM_OAI21_X4%B1_r38 x_PM_OAI21_X4%B1_21 N_B1_M9_g 56.94
R_x_PM_OAI21_X4%B1_r39 x_PM_OAI21_X4%B1_17 x_PM_OAI21_X4%B1_38 4.56151
R_x_PM_OAI21_X4%B1_r40 x_PM_OAI21_X4%B1_17 N_B1_M21_g 40.17
R_x_PM_OAI21_X4%B1_r41 x_PM_OAI21_X4%B1_13 x_PM_OAI21_X4%B1_36 4.56151
R_x_PM_OAI21_X4%B1_r42 x_PM_OAI21_X4%B1_13 N_B1_M6_g 56.94
R_x_PM_OAI21_X4%B1_r43 x_PM_OAI21_X4%B1_9 x_PM_OAI21_X4%B1_36 4.56151
R_x_PM_OAI21_X4%B1_r44 x_PM_OAI21_X4%B1_9 N_B1_M18_g 40.17
R_x_PM_OAI21_X4%B1_r45 x_PM_OAI21_X4%B1_5 x_PM_OAI21_X4%B1_34 4.56151
R_x_PM_OAI21_X4%B1_r46 x_PM_OAI21_X4%B1_5 N_B1_M5_g 56.94
R_x_PM_OAI21_X4%B1_r47 x_PM_OAI21_X4%B1_1 x_PM_OAI21_X4%B1_34 4.56151
R_x_PM_OAI21_X4%B1_r48 x_PM_OAI21_X4%B1_1 N_B1_M17_g 40.17
.ENDS 

********************************************************************************
*
* END
*
********************************************************************************
